US09126976B2
Methyl 3-{1-[(R)-3,3,3-trifluoro-2-hydroxypropyl]-4-[3-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydroquinoxalin-2-yl}benzoate (700 mg, 1.262 mmol) is made as described in Example 16 but with one stereochemical center unresolved. The compound was dissolved in MeOH (12.6 mL), lithium hydroxide monohydrate (530 mg, 12.62 mmol) was added, and the reaction mixture was heated to 60° C. for 4 hours. The crude mixture was dissolved in saturated ammonium chloride solution and extracted into EtOAc, the organic phase was dried with anhydrous magnesium sulfate, filtered, concentrated, and purified on a silica gel column with a 0-100% Hex/EtOAc gradient. The major peak was concentrated to afford 3-{1-[(R)-3,3,3-trifluoro-2-hydroxypropyl]-4-[3-(trifluoromethoxy)benzyl]-1,2,3,4-tetra-hydroquinoxalin-2-yl}benzoic acid. MS m/z=541.09.

reactant | Methyl 3-{1-[(R)-3,3,3-trifluoro-2-hydroxypropyl]-4-[3-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydroquinoxalin-2-yl}benzoate | 1.262 mmol, 700 mg | FC([C@@H](CN1C(CN(C2=CC=CC=C12)CC1=CC(=CC=C1)OC(F)(F)F)C=1C=C(C(=O)OC)C=CC1)O)(F)F | C27H24F6N2O4
reactant | lithium hydroxide monohydrate | 12.62 mmol, 530 mg | O.[OH-].[Li+]
solvent | MeOH | 12.6 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3-{1-[(R)-3,3,3-trifluoro-2-hydroxypropyl]-4-[3-(trifluoromethoxy)benzyl]-1,2,3,4-tetra-hydroquinoxalin-2-yl}benzoic acid | FC([C@@H](CN1C(CN(C2=CC=CC=C12)CC1=CC(=CC=C1)OC(F)(F)F)C=1C=C(C(=O)O)C=CC1)O)(F)F | C26H22F6N2O4
